US05321047
4-[N,N-Bis-(3,4-dichlorobenzyl)amino]butyric acid
A mixture of 4-[N,N-bis-(3,4-dichlorobenzyl)amino]butyronitrile (1.95g), NaOH (2.0g) and ethanol (25ml) was stirred and heated to reflux for 6 hours under a nitrogen blanket. After cooling, the solvent was evaporated in vacuo to give a paste which was taken up in water (30ml), acidified with conc. HCl, stirred well and cooled in ice. The oil which had precipitated crystallised slowly. The crystals were filtered off, washed well with water, and recrystallised from dimethylformamide, diluted with a large volume of ether. The precipitated oil again crystallised slowly. The crystals were triturated with hot isopropanol, diluted with ether, collected by filtration and dried at 50°/1 mm to give the title compound as the hydrochloride salt. (1 .20g), m.p. 227-231° (decomp).

reactant | 4-[N,N-bis-(3,4-dichlorobenzyl)amino]butyronitrile | 1.95g | ClC=1C=C(CN(CC2=CC(=C(C=C2)Cl)Cl)CCCC#N)C=CC1Cl | C18H16Cl4N2
reactant | NaOH | 2.0g | [OH-].[Na+]
reactant | ethanol | 25ml | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | water | 30ml | O | H2O
product | 4-[N,N-Bis-(3,4-dichlorobenzyl)amino]butyric acid | ClC=1C=C(CN(CC2=CC(=C(C=C2)Cl)Cl)CCCC(=O)O)C=CC1Cl | C18H17Cl4NO2
